US06140338
Synthesis of N-[1-(cyclooctylmethyl)piperidin-4-yl]xanthene-9-carboxamide
4.71 g of 4-amino-1-t-butoxycarbonylpiperidine hydrochloride and 4.50 g of xanthene-9-carboxylic acid were suspended in 150 ml of anhydrous N,N-dimethylformamide, and 5.5 ml of triethylamine was added thereto. The mixture was cooled in ice and 5.73 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (hereinafter referred to as EDCI.HCl) and 4.04 g of 1-hydroxybenzotriazole were successively added thereto. The temperature was raised to room temperature immediately, and the reaction solution was stirred for 12 hours. After the reaction solution was cooled to 0° C., 80 ml of water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with 10% citric acid solution, saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and 7.78 g of the title compound as a white solid was obtained.

reactant | 4-amino-1-t-butoxycarbonylpiperidine hydrochloride | 4.71 g | Cl.NC1CCN(CC1)C(=O)OC(C)(C)C
reactant | xanthene-9-carboxylic acid | 4.50 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.73 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 4.04 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
solvent | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(cyclooctylmethyl)piperidin-4-yl]xanthene-9-carboxamide | 7.78 g | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C28H36N2O2
